US04082843
3-(2,3-Dihydroxybenzoyl)propionic acid was cyclised with hydrazine hydrate in a similar manner to that described in Example 3 (i) to give 6-(2,3-dihydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone.

reactant | 3-(2,3-Dihydroxybenzoyl)propionic acid | OC1=C(C(=O)CCC(=O)O)C=CC=C1O | C10H10O5
reactant | hydrazine hydrate | O.NN
product | 6-(2,3-dihydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | OC1=C(C=CC=C1O)C=1CCC(NN1)=O | C10H10N2O3
